US05134111
(b) (E)-3-(3-isopropyl-4-hydroxy-5-methyl-1-naphthyl)propenoic acid
0.5 g of ethyl (E)-3-(4-acetoxy-3-isopropyl-5-methyl-1-naphthyl)propenoate was dissolved in 50 ml of ethanol, to which a potassium hydroxide aqueous solution (potassium hydroxide 1.6 g/water 10 ml) was added, followed by refluxing for 30 minutes. The solution was cooled to 0° C. and water was added. Dilute hydrochloric acid was added to make the aqueous phase acidic and extracted with ethyl acetate. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (40% ethyl acetate/hexane) and the resultant crystals were recrystallized from a mixed solvent of isopropyl ether and ethyl acetate (1:1) and washed with isopropyl ether and hexane (3:7) to obtain 0.19 g of the titled compound as yellow needle.

reactant | ethyl (E)-3-(4-acetoxy-3-isopropyl-5-methyl-1-naphthyl)propenoate | 0.5 g | C(C)(=O)OC1=C(C=C(C2=CC=CC(=C12)C)/C=C/C(=O)OCC)C(C)C | C21H24O4
reactant | potassium hydroxide | 10 ml, 1.6 g | [OH-].[K+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (E)-3-(3-isopropyl-4-hydroxy-5-methyl-1-naphthyl)propenoic acid | 0.19 g | C(C)(C)C=1C=C(C2=CC=CC(=C2C1O)C)/C=C/C(=O)O | C17H18O3
